US05321135
Dissolved in 50 ml of toluene were 7.65 g (26.5 mmol) of 5-(3-bromopropyl)-1,2,3-trimethoxybenzene and 6.9 g (26.5 mmol) of triphenylphosphine, followed by heating under reflux for 23 hours. The reaction mixture was allowed to cool down to room temperature. The supernatant was thereafter removed by decantation, whereby 7.46 g of crude triphenyl[3-(3,4,5-trimethoxyphenyl)propyl]phosphonium bromide were obtained as colorless oil (yield: 51%). The crude oil was used in the next reaction without purification.

reactant | 5-(3-bromopropyl)-1,2,3-trimethoxybenzene | 26.5 mmol, 7.65 g | BrCCCC=1C=C(C(=C(C1)OC)OC)OC | C12H17BrO3
reactant | triphenylphosphine | 26.5 mmol, 6.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | triphenyl[3-(3,4,5-trimethoxyphenyl)propyl]phosphonium bromide | 7.46 g | [Br-].C1(=CC=CC=C1)[P+](CCCC1=CC(=C(C(=C1)OC)OC)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H32O3P.BrH/c1-31-28-22-24(23-29(32-2)30(28)33-3)14-13-21-34(25-15-7-4-8-16-25,26-17-9-5-10-18-26)27-19-11-6-12-20-27;/h4-12,15-20,22-23H,13-14,21H2,1-3H3;1H/q+1;/p-1
